US05488188
Preparation of (E)-1-amino-2-(fluoromethylene)-4-(p-fluorophenyl)butane
Combine sodium diformylamide (28.8 g, 0.31 mol), acetonitrile (360 g), and N,N-dimethylformamide (48 g). Add (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane (50.6 g, 0.23 mol). Heat to reflux. After 5 hours, cool to ambient temperature. Add water (466 g) and stir for 15 minutes. After 30 minutes, the aqueous layer is removed. Evaporate the organic layer in vacuo to give the title compound. 1H NMR (CDCl3, 300 MHz) δ2.28 (m, 2H), 2.72 (m, 2H), 4.07 (d , J=3Hz, 2H), 6.74 (d, J=81Hz, 1H), 6.94 (m, 2H), 7.13 (m, 2H), 8.73 (s, 2H).

reactant | sodium diformylamide | 0.31 mol, 28.8 g | C(=O)[N-]C=O.[Na+]
reactant | acetonitrile | 360 g | C(C)#N | C2H3N
reactant | N,N-dimethylformamide | 48 g | CN(C=O)C | C3H7NO
reactant | (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane | 0.23 mol, 50.6 g | ClC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H11ClF2
solvent | water | 466 g | O | H2O
product | (E)-1-amino-2-(fluoromethylene)-4-(p-fluorophenyl)butane | NC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H13F2N
